US08859768B2
A mixture of N-(4-bromo-5-methylpyridin-2-yl)acetamide (30 g, 131 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (40 g, 157 mmol), potassium acetate (45.2 g, 459 mmol) and Pd(dppf)Cl2 (10.6 g, 13 mmol) in 1,4-dioxane (900 mL) was allowed to stir under an atmosphere of nitrogen at 90° C. for 18 h. The reaction mixture was diluted with EtOAc and filtered while hot. The filtrate was concentrated to give N-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide (18.3 g, 51%).

reactant | N-(4-bromo-5-methylpyridin-2-yl)acetamide | 131 mmol, 30 g | BrC1=CC(=NC=C1C)NC(C)=O | C8H9BrN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 157 mmol, 40 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 459 mmol, 45.2 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 900 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 13 mmol, 10.6 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide | 18.3 g, 51% | CC=1C(=CC(=NC1)NC(C)=O)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
